US05478808
H-Glu(OtBu)-Thr(tBu)-OtBu (1.27 g, 3.05 mmol) and Z-Gly-Gly-Gly-OH (0.99 g, 3.05 mmol) were dissolved in DMF (20 ml). To the solution were added HOBT (453 mg, 3.35 mmol) and WSC (643 mg, 3.35 mmol). The mixture was stirred for 8 hours at 20° C. The reaction mixture was concentrated, which was suspended in 0.2M aqueous solution of citric acid (70 ml), followed by extraction with ethyl acetate (100 ml, 70 ml). The ethyl acetate layers were combined and washed with a 10% (w/v) aqueous solution of ammonium chloride, 5% (w/v) aqueous solution of sodium hydrogencarbonate, water and a saturated aqueous saline solution, successively, which was dried over anhydrous sodium sulfate, followed by concentration. To the concentrate was added ether-hexane. Resulting precipitates were collected by filtration to afford Z-Gly-Gly-Gly-Glu(OtBu)-Thr(tBu)-OtBu (Z-P-2) as a while powdery product (1.87 g, 85%).

reactant | H-Glu(OtBu)-Thr(tBu)-OtBu | 3.05 mmol, 1.27 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC(C)(C)C | C21H40N2O6
reactant | Z-Gly-Gly-Gly-OH | 3.05 mmol, 0.99 g | N(CC(=O)NCC(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C14H17N3O6
reactant | HOBT | 3.35 mmol, 453 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 3.35 mmol, 643 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Z-Gly-Gly-Gly-Glu(OtBu)-Thr(tBu)-OtBu | N(CC(=O)NCC(=O)NCC(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C35H55N5O11
